US05143920
3-Butyryl-4-chloro-6-hydroxyquinoline (4.0 g) and 4-amino-m-cresol (2.0 g) were heated together under reflux in 1,4-dioxan (60 ml) for 2 hours. The solvent was evaporated and the residue was dissolved in chloroform and washed successively with 2M HCl, sodium hydrogen carbonate solution (×2) and brine. The organic solution was dried, filtered and evaporated to a brown oil. A quantity of solid material that appeared insoluble in chloroform was combined with the oil and the mixture was chromatographed (silica gel, 2-4% methanol in chloroform) to give 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-6-hydroxyquinoline (1.3 g, 24%) as orange crystals, m.p. 242°-244°.

reactant | 3-Butyryl-4-chloro-6-hydroxyquinoline | 4.0 g | C(CCC)(=O)C=1C=NC2=CC=C(C=C2C1Cl)O | C13H12ClNO2
reactant | 4-amino-m-cresol | 2.0 g | NC=1C(=CC(=CC1)O)C | C7H9NO
solvent | 1,4-dioxan | 60 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-6-hydroxyquinoline | 1.3 g, 24% | C(CCC)(=O)C=1C=NC2=CC=C(C=C2C1NC1=C(C=C(C=C1)O)C)O | C20H20N2O3
